US06610685B2
The starting material (3-fluoro-2-iodo-phenyl)-carbamic acid methyl ester was prepared from (3-fluoro-phenyl)-carbamic acid methyl ester by double deprotonation with sec.butyllithium in tetrahydrofuran at −78° C. followed by reaction with iodine. m.p.:80-82° C.

reactant | (3-fluoro-phenyl)-carbamic acid methyl ester | COC(NC1=CC(=CC=C1)F)=O | C8H8FNO2
reactant | sec.butyllithium | C(C)(CC)[Li]
reactant | iodine | II | I2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3-fluoro-2-iodo-phenyl)-carbamic acid methyl ester | COC(NC1=C(C(=CC=C1)F)I)=O | C8H7FINO2
